MeetingHub-4 v2 - headphone amplifier  (U2A, NJM4556A, one channel)
* Non-inverting, AC gain 1 + R15/R14 = 2 ; DC gain 1 (C16 blocks the divider).
* Output: C17 (220u) DC block -> R16 (10) series [rev-10, was 47] -> J6.T -> 32 ohm headset.
* Requirement: flat audio band, no DC on the phones, drives 16-32 ohm.
.include opamp.sub

V5   p5 0 5
V    bias vbias 0 2.5
Vin  mix vbias AC 1 SINE(0 0.30 1k)

C15  mix  inp  1u
R13  inp  vbias 100k
R15  inn  out   1k
R14  inn  fbg   1k
C16  fbg  0     10u
XU2  out  inp inn p5 0  OPAMP1 params: A0=1e5 GBW=9e6 ROUT=25 VSAT=1.2
C17  out  n1    220u
R16  n1   j6t   10
Rhp  j6t  0     32

.ac dec 40 2 200k
.tran 0 8m 0 2u
.end
